US09428470B2
C) Butyl methyl 2,2′-(3-(3-(benzyloxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate
Silver benzoate (0.393 g) was added to a mixture of butyl (3-(3-(benzyloxy)phenyl)-5-(diazoacetyl)-4,5-dihydro-1,2-oxazol-5-yl)acetate (1.87 g), triethylamine (1.496 mL), methanol (40 mL), and THF (20 mL) at 50 C, and the obtained mixture was stirred at 50 C for 20 minutes. The precipitate was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (0.919 g).

reactant | butyl (3-(3-(benzyloxy)phenyl)-5-(diazoacetyl)-4,5-dihydro-1,2-oxazol-5-yl)acetate | 1.87 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NOC(C1)(C(C=[N+]=[N-])=O)CC(=O)OCCCC | C24H25N3O5
reactant | triethylamine | 1.496 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 40 mL | CO | CH4O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Silver benzoate | 0.393 g | C(C1=CC=CC=C1)(=O)[O-].[Ag+]
product | Butyl methyl 2,2′-(3-(3-(benzyloxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate | 0.919 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NOC(C1)(CC(=O)OC)CC(=O)OCCCC | C25H29NO6
